US08349880B2
Step AAG (1): A mixture of tert-butyl hydrazinecarboxylate (1.45 g, 11.0 mmol) and 5-(4-fluorophenyl)-5-oxopentanoic acid (2.1 g, 10 mmol) in THF (20 mL) was stirred at 50° C. for 16 h. The reaction mixture was concentrated in vacuo to afford 5-(2-(tert-butoxycarbonyl)hydrazono)-5-(4-fluorophenyl)pentanoic acid (3.2 g, 9.87 mmol, 99% yield). LC-MS (M+H)+ 325.24. The crude product was used for subsequent chemistry without purification.

reactant | tert-butyl hydrazinecarboxylate | 11.0 mmol, 1.45 g | N(N)C(=O)OC(C)(C)C | C5H12N2O2
reactant | 5-(4-fluorophenyl)-5-oxopentanoic acid | 10 mmol, 2.1 g | FC1=CC=C(C=C1)C(CCCC(=O)O)=O | C11H11FO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 5-(2-(tert-butoxycarbonyl)hydrazono)-5-(4-fluorophenyl)pentanoic acid | 9.87 mmol, 3.2 g, 99% yield | C(C)(C)(C)OC(=O)NN=C(CCCC(=O)O)C1=CC=C(C=C1)F | C16H21FN2O4
